US07163940B2
To a solution of 6-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-(cyclopentylamino)-4-pyrimidinecarboxylic acid (340 mg, 0.752 mmol) in methanol (20 mL) was added (trimethylsilyl)diazomethane (376 μL, 2.0 M in hexanes, 0.752 mmol). The reaction mixture was stirred at room temperature for 16 hours. Excess (trimethylsilyl)diazomethane was added and the reaction mixture was stirred 3 days. The reaction mixture was quenched with saturated aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic layer was washed with water and brine, then dried over magnesium sulfate. Filtration and concentration followed by flash chromatography (49-1 to 29-1 dichloromethane-methanol) provided methyl 6-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-(cyclopentylamino)pyrimidine-4-carboxylate (45 mg, 13%). 1H NMR (CDCl3) δ 8.44 (d, 1H), 7.65 (m, 2H), 7.34 (t, 1H), 7.17 (t, 2H), 7.11 (d, 1H), 7.03 (s, 1H), 5.43 (br, 1H), 4.36 (m, 1H), 3.89 (s, 3H), 2.05 (m, 2H), 1.76–1.55 (m, 6H); MS m/z 466 (M+1).

reactant | 6-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-(cyclopentylamino)-4-pyrimidinecarboxylic acid | 0.752 mmol, 340 mg | ClC1=CC=CC=2N1N=C(C2C2=CC(=NC(=N2)NC2CCCC2)C(=O)O)C2=CC=C(C=C2)F | C23H19ClFN5O2
reactant | (trimethylsilyl)diazomethane | 0.752 mmol, 2.0 M, 376 μL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | methanol | 20 mL | CO | CH4O
product | methyl 6-[7-chloro-2-(4-fluorophenyl)pyrazolo[1,5-α]pyridin-3-yl]-2-(cyclopentylamino)pyrimidine-4-carboxylate | 45 mg, 13% | ClC1=CC=CC=2N1N=C(C2C2=CC(=NC(=N2)NC2CCCC2)C(=O)OC)C2=CC=C(C=C2)F | C24H21ClFN5O2
